US07691867B2
Pentafluorophenyl trifluoroacetate (0.867 g, 3.10 mmol) was added dropwise, at room temperature, to a stirred suspension of (4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)acetic acid (0.800 g, 2.21 mmol) and pyridine (0.245 g, 3.10 mmol) in dimethylformamide (8 ml). After stirring for 5 minutes, aniline (0.412 g, 4.43 mmol) was added and the reaction mixture was stirred for 2 hours. The mixture was poured into dilute hydrochloric acid (0.2N, 25 ml) and the resultant solid filtered and then washed with water. The residue was stirred in dilute aqueous sodium hydroxide solution and filtered and the residue washed successively with water, methanol and diethylether to give 2-(4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-phenylacetamide (0.520 g, 54% yield): MS (+ve ESI): 437 (M+H)+.

reactant | Pentafluorophenyl trifluoroacetate | 3.10 mmol, 0.867 g | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
reactant | (4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)acetic acid | 2.21 mmol, 0.800 g | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)O | C16H16ClN5O3
reactant | pyridine | 3.10 mmol, 0.245 g | N1=CC=CC=C1 | C5H5N
reactant | aniline | 4.43 mmol, 0.412 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 0.2N, 25 ml | Cl | ClH
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2-(4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-phenylacetamide | 0.520 g, 54% yield | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)NC1=CC=CC=C1 | C22H21ClN6O2
